US07405228B2
(S)-1-{3-[4-(4-cyanomethyl-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-4-carboethoxy-1,2,3-triazole
The suspension of (S)-1-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-4-carboethoxy-1,2,3-triazole (0.14 mmol), 10% palladium on carbon (0.1 g) tetrahydrofuran was stirred under atmospheric hydrogen pressure at 30° C. for overnight.

reactant | (S)-1-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-4-carboethoxy-1,2,3-triazole | 0.14 mmol | C(#N)C=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN1N=NC(=C1)C(=O)OCC)=O | C22H24N6O4
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | (S)-1-{3-[4-(4-cyanomethyl-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-4-carboethoxy-1,2,3-triazole | C(#N)CC1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN1N=NC(=C1)C(=O)OCC)=O | C22H26N6O4
